US05185339
A solution of 2-p-chlorobenzylpyridine (12.0 g, 0.059 moles) and hydrogen peroxide (33% w/v, 4.02 g, 12.2 ml, 0.118 moles) in glacial acetic acid (40 ml) was heated at 60° for 15 hours. The reaction mixture was cooled to room temperature, the acetic acid evaporated under reduced pressure and the residue dissolved in chloroform. After neutralisation with potassium carbonate (20 g) the chloroform was removed to give 2-p-chlorobenzylpyridine-N-oxide (11.02 g, 85%) as a viscous oil.

reactant | 2-p-chlorobenzylpyridine | 0.059 moles, 12.0 g | ClC1=CC=C(CC2=NC=CC=C2)C=C1 | C12H10ClN
reactant | hydrogen peroxide | 0.118 moles, 12.2 ml, 4.02 g | OO | H2O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-p-chlorobenzylpyridine-N-oxide | 11.02 g, 85% | ClC1=CC=C(CC2=[N+](C=CC=C2)[O-])C=C1 | C12H10ClNO
